US04873255
2-Methyl-2-(4-nitrophenoxymethyl)-4-oxochroman-6-carboxylic acid
A procedure similar to that described in Preparation 1 was repeated, except that 10 g of 3-acetyl-4-hydroxybenzoic acid, 13 g of 4-nitrophenoxyacetone, 7.9 g of pyrrolidine, 2.6 g of p-toluenesulfonic acid monohydrate and 150 ml of benzene were reacted, to afford 17.6 g of the title compound as pale brown crystals, melting at 227°-235° C.

reactant | 3-acetyl-4-hydroxybenzoic acid | 10 g | C(C)(=O)C=1C=C(C(=O)O)C=CC1O | C9H8O4
reactant | 4-nitrophenoxyacetone | 13 g | [N+](=O)([O-])C1=CC=C(OCC(C)=O)C=C1 | C9H9NO4
reactant | pyrrolidine | 7.9 g | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | 2.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-Methyl-2-(4-nitrophenoxymethyl)-4-oxochroman-6-carboxylic acid | 17.6 g | CC1(OC2=CC=C(C=C2C(C1)=O)C(=O)O)COC1=CC=C(C=C1)[N+](=O)[O-] | C18H15NO7
